US06953790B2
Step C. Benzyl (1R)-1-{[[2-(2,3-difluorophenyl)prop-2-enyl](2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate
Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane adduct (0.726 g, 0.889 mmol) was added to a solution of benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate (9.2 g, 17.8 mmol), 2,3-difluorophenylboronic acid (2.95 g, 18.7 mmol) and sodium carbonate (2M in water; 19.6 mL, 39.1 mmol) in N,N-dimethylformamide (60 mL) and the mixture was heated to 75° C. After 2 h, the mixture was allowed to cool to ambient temperature and extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→55% ethyl acetate/hexanes) gave the title compound (6.8 g). MS 551.2 (M+1).

reactant | benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate | 17.8 mmol, 9.2 g | BrC(CN(C(=O)[C@@H](CC=C)NC(OCC1=CC=CC=C1)=O)CC1=C(C=C(C=C1)OC)OC)=C | C25H29BrN2O5
reactant | 2,3-difluorophenylboronic acid | 18.7 mmol, 2.95 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 39.1 mmol, 2M, 19.6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane | 0.889 mmol, 0.726 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | Benzyl (1R)-1-{[[2-(2,3-difluorophenyl)prop-2-enyl](2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate | 6.8 g | FC1=C(C=CC=C1F)C(CN(C(=O)[C@@H](CC=C)NC(OCC1=CC=CC=C1)=O)CC1=C(C=C(C=C1)OC)OC)=C | C31H32F2N2O5
